US07910607B2
In order to characterize the structure of the chlorambucil-TEMPOL adduct by using NMR spectroscopy, the nitroxyl free radical was reduced using isoascorbic acid. 3.4 mmol of the product was dissolved in 15 ml of ethanol and 4.8 mmol of isoascorbic dissolved in 1 ml H2O was then added to the solution. Reduction of the nitroxyl group to the hydroxyl was monitored by the disappearance of the pink color in the solution. The solution was then Rotovapped to remove excess solvent and extracted with ether. The organic phase was dried over MgSO4 and evaporated to get the reduced product (1-hydroxy2, 2, 6, 6-tetramethylpiperidin-4-yl-{4-[bis (2-Chloroethyl) amino] phenyl} butanoate) with 95% yield. The reduction of nitroxyl radical is illustrated as follows:

reactant | chlorambucil TEMPOL | C1=CC(=CC=C1CCCC(=O)O)N(CCCl)CCCl.CC1(CC(CC(N1[O])(C)C)O)C
reactant | nitroxyl | N=O | HNO
reactant | isoascorbic acid | C([C@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | H2O | 1 ml | O | H2O
product | 1-hydroxy2, 2, 6, 6-tetramethylpiperidin-4-yl-{4-[bis (2-Chloroethyl) amino] phenyl} butanoate | 95% yield | C(CCC)(=O)OC1=C(C=C(C=C1)N(CCCl)CCCl)C1CC(N(C(C1)(C)C)O)(C)C | C23H36Cl2N2O3
